US07141596B2
Step 1. 4-(4-Fluorophenyl)-1-[(2-methyl-1H-imidazol-1-yl)sulfonyl]-1,2,3,6-tetrahydropyridine
A solution of 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride (150 mg, 700 μmol), 2,3-dimethyl-1-[(2-methyl-1H-imidazol-1-yl)sulfonyl]-1H-imidazol-3-ium trifluoromethanesulfonate (410 mg, 1.05 mmol), acetonitrile (5 mL) and triethylamine (98 μL, 700 μmol) was stirred at 25° C. for 24 h. The reaction was diluted with water and extracted with ethyl acetate three times, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by preparative LCMS to yield the desired product (117 mg, 52%). MF=C15H16FN3O2S; LCMS found for C15H17FN3O2S(M+H)+: m/z=322.

reactant | 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 700 μmol, 150 mg | Cl.FC1=CC=C(C=C1)C=1CCNCC1
reactant | 2,3-dimethyl-1-[(2-methyl-1H-imidazol-1-yl)sulfonyl]-1H-imidazol-3-ium trifluoromethanesulfonate | 1.05 mmol, 410 mg | FC(S(=O)(=O)[O-])(F)F.CC=1N(C=C[N+]1C)S(=O)(=O)N1C(=NC=C1)C
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | triethylamine | 700 μmol, 98 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-(4-Fluorophenyl)-1-[(2-methyl-1H-imidazol-1-yl)sulfonyl]-1,2,3,6-tetrahydropyridine | 117 mg, 52% | FC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)N1C(=NC=C1)C | C15H16FN3O2S
